US06642267B2
An aqueous solution of sodium nitrite (0.075 g, 1.1 mmol) was added to an ice-cooled suspension of 2 mmol (0.432 g) 5-benzylidene-4-hydroxy-1,5-dihydro-pyrrol-2-one (prepared by the method of H. Poschenrieder et al (Arch. Pharm. Pharm. Med. Chem. 1998, vol. 331, pp. 389-394) and Stachel et al (J. Heterocycl. Chem. 1980, vol. 17, pp. 1195-1199 and Liebigs Ann. Chem. 1985, pp. 1692-1696)) in 5 ml glacial acetic acid, while stirring, and the mixture was stirred at room temperature for 30 minutes. The reaction solution was concentrated and orange crystals of 5-benzylidene-4-hydroxy-4-nitroso-1,5-dihydro-pyrrol-2-one were obtained in a yield of 65% by recrystallization from ethanol. The substance decomposes at 205° C.

reactant | sodium nitrite | 1.1 mmol, 0.075 g | N(=O)[O-].[Na+]
reactant | 5-benzylidene-4-hydroxy-1,5-dihydro-pyrrol-2-one | 2 mmol, 0.432 g | C(C1=CC=CC=C1)=C1C(=CC(N1)=O)O | C11H9NO2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-benzylidene-4-hydroxy-4-nitroso-1,5-dihydro-pyrrol-2-one | yield of 65% | C(C1=CC=CC=C1)=C1C(CC(N1)=O)(N=O)O | C11H10N2O3
